US04386081
15.2 g (0.10 mole) of 2-adamantanol and 12.1 g (0.10 mole) of N,N-dimethylaniline were dissolved in 200 ml of dry ether and added to 105 ml (0.20 mole) of phosgene in toluene (20%) over a period of 1 hour. The reaction flask was kept at 0° C. and was equipped with a stirrer and a dry ice condensor. The product was stirred at room temperature for another hour, after which the solution was cooled on ice and 10 ml of ice cold water was added carefully. The water and the toluene phases were quickly separated and the toluene was quickly washed with 50 ml of 0.5 N HCl, 50 ml of 0.5 N NaOH and 50 ml of H2O. The toluene solution was dried over magnesium sulfate and evaporated in vacuo. The residue was dissolved in dry n-hexane and filtered. The hexane was evaporated and the residue was distilled in vacuo to give 2-adamantanyl chloroformate bp15 135° C., nD19 1.521, IR (CO) 1770 cm-1.

reactant | 2-adamantanol | 0.10 mole, 15.2 g | C12C(C3CC(CC(C1)C3)C2)O | C10H16O
reactant | N,N-dimethylaniline | 0.10 mole, 12.1 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosgene | 0.20 mole, 105 ml | C(=O)(Cl)Cl | CCl2O
reactant | dry ice | C(=O)=O | CO2
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-adamantanyl chloroformate | ClC(=O)OC1C2CC3CC(CC1C3)C2 | C11H15ClO2
